US08536185B2
Preparation of 2-phenyl-5-(5-phenyl-4H-1,2,4-triazol-3-yl)pyrimidine
2-Phenyl-pyrimidine-5-carbonitrile (Biofine International, 0.10 g, 0.55 mmol) and benzoic hydrazide (Aldrich, 0.075 g, 0.55 mmol) were dissolved in o-xylene (5 mL) and heated to 200° C. in a sealed pressure tube while stirring for 24 hours. After cooling to room temperature, the reaction mixture was heated to 200° C. in an open vessel under a stream of nitrogen for six hours. The remaining crude solid was dissolved in a minimal amount of 98:2 v/v dichloromethane-methanol and purified by flash silica column chromatography. Elution through a 40-g Analogix® flash silica cartridge with 100% dichloromethane to 2% methanol in dichloromethane afforded the title compound as a pale yellow solid (10 mg, 6% yield); Rf 0.1 with 98:2 v/v dichloromethane-methanol; melting point 280-282° C.; 1H-NMR (400 MHz; CDCl3) δ 8.48-8.42 (m, 2H), 8.12-8.06 (m, 2H), 7.60-7.48 (m, 6H); MS (ESI+) m/z 300.1 (M+1); H-PGDS FPBA IC50: 1.0 μM; H-PGDS inhibitor EIA IC50: 0.084 μM.

reactant | 2-Phenyl-pyrimidine-5-carbonitrile | 0.55 mmol, 0.10 g | C1(=CC=CC=C1)C1=NC=C(C=N1)C#N | C11H7N3
reactant | benzoic hydrazide | 0.55 mmol, 0.075 g | C(C1=CC=CC=C1)(=O)NN | C7H8N2O
solvent | o-xylene | 5 mL | CC=1C=CC=CC1C | C8H10
solvent | dichloromethane methanol | ClCCl.CO
product | 2-phenyl-5-(5-phenyl-4H-1,2,4-triazol-3-yl)pyrimidine | 10 mg, 6% yield | C1(=CC=CC=C1)C1=NC=C(C=N1)C1=NN=C(N1)C1=CC=CC=C1 | C18H13N5
